US05536737
b) (S)-2-[1-Hydroxy-2-(phenylmethyloxy)ethyl]-1-(L-prolyl)-pyrrolidine hydrochloride
(S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[1-hydroxy-2(phenylmethyloxy)ethyl]pyrrolidine (4.99 g) was dissolved in a 3.6N hydrogen chloride-1,4-dioxane solution, and the mixture was left standing at room temperature for 40 minutes. The reaction mixture was concentrated to give the title compound (2.66 g). c) (S)-2-[[(S)-2-(1-Hydroxy-2-(phenylmethyloxy)ethyl]-1-pyrrolidinyl]carbonyl]-N-(2-phenylethyl)-1-pyrrolidinecarboxamide

reactant | (S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[1-hydroxy-2(phenylmethyloxy)ethyl]pyrrolidine | 4.99 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COCC2=CC=CC=C2)O)CCC1 | C23H34N2O5
reactant | hydrogen chloride-1,4-dioxane | 3.6N | O1CCOCC1.Cl
product | (S)-2-[1-Hydroxy-2-(phenylmethyloxy)ethyl]-1-(L-prolyl)-pyrrolidine hydrochloride | 2.66 g | Cl.OC(COCC1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1NCCC1)=O | InChI=1S/C18H26N2O3.ClH/c21-17(13-23-12-14-6-2-1-3-7-14)16-9-5-11-20(16)18(22)15-8-4-10-19-15;/h1-3,6-7,15-17,19,21H,4-5,8-13H2;1H/t15-,16-,17?;/m0./s1
